US07129367B2
Preparation of 2,2-diphenyl-1-(di-tert-butylphosphino)-1-methylcyclopropane
Under a nitrogen atmosphere, 1-bromo-2,2-diphenyl-cyclopropane (1.44 g, 5.0 mmol), magnesium (0.134 g, 5.5 mmol) and THF (10 ml) were placed in a reaction flask, followed by addition of a trace amount of iodine and stirring at 40° C. for one hour. After cooling, copper iodide (0.962 g, 5.0 mmol), lithium bromide (0.567 g, 6.5 mmol) and chlorodi-tert-butylphosphine (0.95 ml, 5.0 mmol) were added and the resulting mixture was stirred at 60° C. for 3 hours, followed by cooling to room temperature. The resulting mixture was diluted with hexane (20 ml) and crystal separated was collected by filtration. The crystal was dissolved in toluene, and the toluene solution was washed with a 28% aqueous ammonia and a brine, and dried over anhydrous magnesium sulfate. The solvent was then removed under reduced pressure to give the title compound (0.83 g, 47%) as white crystal.

reactant | 1-bromo-2,2-diphenyl-cyclopropane | 5.0 mmol, 1.44 g | BrC1C(C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C15H13Br
reactant | magnesium | 5.5 mmol, 0.134 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | lithium bromide | 6.5 mmol, 0.567 g | [Br-].[Li+]
reactant | chlorodi-tert-butylphosphine | 5.0 mmol, 0.95 ml | ClP(C(C)(C)C)C(C)(C)C | C8H18ClP
reactant | hexane | 20 ml | CCCCCC | C6H14
catalyst | copper iodide | 5.0 mmol, 0.962 g | [Cu](I)I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2,2-diphenyl-1-(di-tert-butylphosphino)-1-methylcyclopropane | 0.83 g, 47% | C1(=CC=CC=C1)C1(C(C1)(C)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C24H33P
